US06210603B1
The same procedures as in the fourth step were repeated with the exception that 4.3 g (8.9 mmol) of the 4′-(2-(4-propylphenyl)ethyl)-2′,3,5-trifluoro-4-iodobiphenyl obtained in the fifth step was used in place of the 3-fluoro-4-iodo-(2-(4-propylphenyl)ethyl)benzene used in the fourth step, and that 2.1 g (13.3 mmol) of dihydroxy(3,4-difluorophenyl)borane was used in place of dihydroxy(3,5-difluorophenyl)borane, to obtain 3.4 g of a crude 2″,2′,6′,3,4-pentafluoro-4″-(2-(4-propylphenyl)ethyl)terphenyl. This product was recrystallized from mixed solvent of ethanol/ethyl acetate (8/2) to obtain 2.6 g of the subject compound. (Yield: 62.3%) Phase transition temperatures of this product were as follows:

reactant | 4′-(2-(4-propylphenyl)ethyl)-2′,3,5-trifluoro-4-iodobiphenyl | 8.9 mmol, 4.3 g | C(CC)C1=CC=C(C=C1)CCC1=CC(=C(C=C1)C1=CC(=C(C(=C1)F)I)F)F | C23H20F3I
reactant | 3-fluoro-4-iodo-(2-(4-propylphenyl)ethyl)benzene | FC=1C=C(C=CC1I)CCC1=CC=C(C=C1)CCC | C17H18FI
reactant | dihydroxy(3,4-difluorophenyl)borane | 13.3 mmol, 2.1 g | OB(C1=CC(=C(C=C1)F)F)O | C6H5BF2O2
product | 2″,2′,6′,3,4-pentafluoro-4″-(2-(4-propylphenyl)ethyl)terphenyl | 3.4 g | FC1=C(C=CC(=C1)CCC1=CC=C(C=C1)CCC)C1(C(=C(C=CC1)F)C1=CC(=C(C=C1)F)F)F | C29H25F5
